US07572809B2
b) Preparation of 3-[3,4-Bis-(2-methoxy-ethoxy)-phenyl]-acrylic acid
To a solution of 3,4-Bis-(2-methoxy-ethoxy)-benzaldehyde (19 g, 72.4 mmol) in pyridine (60 ml), malonic acid (11.3 g, 108.6 mmol) was added, followed by piperidine (2 ml), the resulting mixture was heated at 110° C. for 6 hs under N2. After removal of most of pyridine, the residue was poured into water (200 ml) and acidified to PH=3 by aq.HCl. The precipitate was collected and dried to give product (20 g, 93.3%). LC-MS: m/e 295 (M−1)

reactant | 3,4-Bis-(2-methoxy-ethoxy)-benzaldehyde | 72.4 mmol, 19 g | COCCOC=1C=C(C=O)C=CC1OCCOC | C13H18O5
reactant | malonic acid | 108.6 mmol, 11.3 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 3-[3,4-Bis-(2-methoxy-ethoxy)-phenyl]-acrylic acid | 20 g, 93.3% | COCCOC=1C=C(C=CC1OCCOC)C=CC(=O)O | C15H20O6
